US09399623B2
6-Chloro-2-(3-dimethylaminocyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide (156)
The title compound was synthesized according to the procedure described in example 133 using 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexyl methyl)-amide, and dimethylamine. 1H NMR (400 MHz, DMSO-d6): δ 8.76 (d, J=6.2 Hz, 1H), 8.13 (t, J=5.6 Hz, 1H), 8.11-7.96 (m, 1H), 7.79-7.77 (m, 2H), 7.59 (d, J=8.6 Hz, 1H), 3.41-2.85 (m, 1H), 2.84-2.50 (m, 1H), 2.50-2.49 (m, 2H), 2.48-2.46 (m, 6H), 2.25-2.07 (m, 1H), 2.01-1.91 (m, 4H), 1.90-1.85 (m, 5H), 1.73-1.69 (m, 4H). m/z: 466.3 [M+H]+

reactant | 6-chloro-2-(3-oxo-cyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxycyclohexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)=O)F | C22H23ClF2N2O3
reactant | dimethylamine | CNC | C2H7N
product | 6-Chloro-2-(3-dimethylaminocyclopentyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CC(CC1)N(C)C)F | C24H30ClF2N3O2
